US09108953B2
To a mixture of HATU (38 mg, 0.10 mmol), cyclopentanamine (9 mg, 0.10 mmol), and 1S,2R)-2-(7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamido)cyclopentanecarboxylic acid (21 mg, 0.05 mmol) in anhydrous DMF (1 mL), was added slowly Hunig's base (30 uL, 0.16 mmol) with stirring until the starting material acid disappeared (about 1 hr). The reaction mixture was acidified with aqueous citric acid to pH 2-3, then subjected to preparative HPLC to give (1S,2R)—N-cyclopentyl-2-(7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamido)cyclopentanecarboxamide.

reactant | HATU | 0.10 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclopentanamine | 0.10 mmol, 9 mg | C1(CCCC1)N | C5H11N
reactant | 2-(7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamido)cyclopentanecarboxylic acid | 0.05 mmol, 21 mg | CC1=NOC(=C1C=1C=C(C=2C=CC=NC2C1)S(=O)(=O)NC1C(CCC1)C(=O)O)C | C20H21N3O5S
reactant | Hunig's base | 0.16 mmol, 30 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (1S,2R)—N-cyclopentyl-2-(7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamido)cyclopentanecarboxamide | C1(CCCC1)NC(=O)[C@@H]1[C@@H](CCC1)NS(=O)(=O)C=1C=2C=CC=NC2C=C(C1)C=1C(=NOC1C)C | C25H30N4O4S
